US09145387B2
To a solution of methyl amine (2M) in THF (2.4 mL, 4.70 mmol) in DCM (50 ml), TEA (963 mg, 9.50 mmol) and 2,4-dichloropyrimidine-5-carbonyl chloride (1 g, 4.70 mmol) were added slowly at −78° C. for 1 h. TLC showed completion of starting material (TLC system: 10% ethyl acetate in hexane (Rf): 0.3). The reaction mixture was diluted with DCM (50 ml), washed with water (2×30 ml) and a saturated solution of NaHCO3. The organic layer was separated, dried over sodium sulphate, and concentrated. Crude compound was purified by column chromatography using silica gel (100-200 mesh) with 5% ethyl acetate in hexane to obtain 2,4-dichloro-N-methylpyrimidine-5-carboxamide as white solid. Yield: (400 mg, 33%). 1HNMR (400 MHz, CDCl3) δ 8.98 (s, 1H), 6.50 (br s, 1H), 3.07 (d, 3H, J=4.8 Hz).

reactant | methyl amine | 2M | CN | CH5N
reactant | THF | 4.70 mmol, 2.4 mL | C1CCOC1 | C4H8O
reactant | 2,4-dichloropyrimidine-5-carbonyl chloride | 4.70 mmol, 1 g | ClC1=NC=C(C(=N1)Cl)C(=O)Cl | C5HCl3N2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | 2,4-dichloro-N-methylpyrimidine-5-carboxamide | ClC1=NC=C(C(=N1)Cl)C(=O)NC | C6H5Cl2N3O
